US04377580
A mixture of 4-amino-6-(3,3-dimethylbutyramido)quinazoline (12.2 g), diethyl ethoxymethylenepropandioate (15.3 g) and N,N-dimethylformamide (50 ml) was stirred at 150° C. for 2 hours. The reaction mixture was cooled to ambient temperature. After adding water, the resultant mixture was extracted with chloroform. The chloroform layer was washed twice with water and once with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give a residue, to which was added ethyl acetate. Insoluble materials were separated by filtration and dried to give ethyl 4-oxo-10-(3,3-dimethylbutanamido)-4H-pyrimido[1,2-c]quinazoline-3-carboxylate (4.7 g) melting at 253°-254° C. Further, the filtrate was concentrated under reduced pressure to give a residue, which was recrystallized from a mixture of ethyl acetate and hexane to give crystalline diethyl [{6-(3,3-dimethylbutyramido)4-quinazolinylamino}methylene]propanedioate (10.1 g).

reactant | 4-amino-6-(3,3-dimethylbutyramido)quinazoline | 12.2 g | NC1=NC=NC2=CC=C(C=C12)NC(CC(C)(C)C)=O | C14H18N4O
reactant | diethyl ethoxymethylenepropandioate | 15.3 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4-oxo-10-(3,3-dimethylbutanamido)-4H-pyrimido[1,2-c]quinazoline-3-carboxylate | 4.7 g | O=C1C(=CN=C2N1C=NC=1C=CC(=CC21)NC(CC(C)(C)C)=O)C(=O)OCC | C20H22N4O4
